US05470851
1-{2-[α-(4-Methylphenyl)benzyloxy]ethyl}piperazine
Following a procedure similar to that described in Preparation 5(c), but using 2-[α-(4-methylphenyl)-benzyloxy]ethyl chloride and anhydrous piperazine, the title compound was obtained in a yield of 65%.

reactant | 2-[α-(4-methylphenyl)-benzyloxy]ethyl chloride | CC1=CC=C(C=C1)C(C1=CC=CC=C1)OCCCl | C16H17ClO
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 1-{2-[α-(4-Methylphenyl)benzyloxy]ethyl}piperazine | yield of 65% | CC1=CC=C(C=C1)C(C1=CC=CC=C1)OCCN1CCNCC1 | C20H26N2O
